US07087626B2
4-(3-Methoxy-phenyl)-1-(1-pyridin-2-yl-2-quinolin-4-yl-ethylideneamino)-pyrrolidin-2-one
A solution of 1-pyridin-2-yl-2-quinolin-4-yl-ethanone, (0.25 g, 1 mmol) and pyridine (0.242 mL, 3 mmol) in acetic acid (2 mL) is added to 1-amino-4-(3-methoxy-phenyl)-pyrrolidin-2-one, (0.2 g, 1 mmol) at room temperature under nitrogen. The mixture is stirred 18 h and concentrated in vacuo. The residue is chromatographed on SiO2 (2% methanol/dichloromethane) to yield the title compound, 0.25 g (57%), as a yellow foam.

reactant | 1-pyridin-2-yl-2-quinolin-4-yl-ethanone | 1 mmol, 0.25 g | N1=C(C=CC=C1)C(CC1=CC=NC2=CC=CC=C12)=O | C16H12N2O
reactant | pyridine | 3 mmol, 0.242 mL | N1=CC=CC=C1 | C5H5N
reactant | 1-amino-4-(3-methoxy-phenyl)-pyrrolidin-2-one | 1 mmol, 0.2 g | NN1C(CC(C1)C1=CC(=CC=C1)OC)=O | C11H14N2O2
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | 4-(3-Methoxy-phenyl)-1-(1-pyridin-2-yl-2-quinolin-4-yl-ethylideneamino)-pyrrolidin-2-one | COC=1C=C(C=CC1)C1CC(N(C1)N=C(CC1=CC=NC2=CC=CC=C12)C1=NC=CC=C1)=O | C27H24N4O2
